Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
L3 biopsy

 
History of Present Illness:
Mr. ___ is a ___ male with history of DMII, BPH,
recurrent C. diff, and inoperable cholangiocarcinoma s/p
gemcitabine/cisplatin and Cyberknife in ___ complicated by
recurrent biliary obstruction/cholangitis with MDR E. coli,
biliary sepsis and multiple ERCPs/PTBDs who presents with
fatigue.

Patient was last admitted in ___ with MDR E. coli bacteremia
and liver abscesses for which he completed a four week course of
tigecycline and ertapenem to cover multiple isolates of E. coli.
He has continued on oral bactrim suppressive therapy. He had has
PTBD exchanged on ___.

He now reports progressive fatigue and weakness over the past 
few
weeks. He has had some trouble falling and staying asleep at
night. He has been sleeping in his recliner and tried melatonin
without effect. He notes that a couple weeks ago he was able to
walk ___ miles per day but recently has only been able to walk
around his yard. He has had a stable appetite and denies changes
in his diet. His weight has been stable. He reached out to his
PCP who recommended stopping Benadryl and eliminating sugars 
from
his diet and made these changes without significant improvement.
He called his Oncologist who recommended lab evaluation which he
had done locally. The labs were notable for which were 
concerning
for iron deficiency (ferritin 7, iron 22, TIBC 390), H/H
11.1/36.1, and normal CA-19. He called his Oncologist as his
fatigue was becoming worse to the point where he cannot open a
can of soda and unable to make breakfast who recommended further
evaluation. He ambulates with a walking stick.

On arrival to the ED, initial vitals were 98.5 81 136/72 18 100%
RA. Exam was unremarkable. Labs were notable for WBC 3.8, H/H
11.4/38.0, Plt 88, INR 1.2, Na 135, K 8.1 (hemolyzed) -> 4.2,
BUN/Cr ___, ALT 49, AST 93, ALP 179, Tbili 0.3, Trop-T < 
0.01,
BNP 40, lactate 2.1, and UA negative. Blood, urine, and biliary
fluid cultures were sent. CT head, CXR, and RUQ ultrasound were
unremarkable. Patient was given loratadine, finasteride,
tamsulosin, apixaban, Bactrim, and 1L LR. Prior to transfer
vitals were 98.7 66 141/98 18 97% RA.

On arrival to the floor, patient reports feeling tired but has 
no
acute issues or concerns. He denies fevers/chills, night sweats,
headache, vision changes, dizziness/lightheadedness,
weakness/numbnesss, shortness of breath, cough, hemoptysis, 
chest
pain, palpitations, abdominal pain, nausea/vomiting, diarrhea,
hematemesis, hematochezia/melena, dysuria, hematuria, and new
rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools. He states
that over the summer, he was more fatigued than usual with
burping. He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen. He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits. During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct. He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4.
- ___: Repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point. During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma. Cytology was suspicious for
carcinoma.
- ___: Repeat ERCP with exchange of plastic for metal stent.
- ___: Start of cisplatin/gemcitabine cycle ___
- ___ Seen in ED for BPV 
- ___: Cycle ___: Hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enterococcus.
- ___: Cycle 3, last dose ___ and ___: Hospitalized for GNR bacteremia and
C. diff and then again for delirium, discharged home.
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___: Completed CK. Radiation and resume C5D1 Gem/Cis. 
Day
15 held due to low counts and post-hospitalization. 
- ___: Admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: Start of C6 with dose reduced gemcitabine to 
800mg/m2.
- ___: Start of C7 with dose reduced gemcitabine to  
750mg/m2. Also received on ___.
- ___: Received last dose, C8D1.
- ___ and ___: Hospitalized for biliary sepsis s/p perc 

chole tube.
- ___: Hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization.
- ___: Admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced.
- ___: Admitted with replacement of his percutaneous
biliary drain on ___ due to fever. None of his blood
cultures returned positive during that admission.
- ___ and ___: Visited ED with fevers, chills abdominal
pain. 
- ___: Admitted with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- ___: Admitted with cholangitis, ERCP deferred 
given
prior hemobilia. In the absence of an obvious target for
decompression, ___ was not consulted for consideration of biliary
drain replacement. Blood and urine cultures were negative. After
discussion with the infectious disease team, the decision was
made to treat for acute cholangitis with a 10d course of
meropenem 500mg q6h (___), followed by initiation of
suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 1
tab daily.
- ___: Admitted with cholangitis and associated ESBL
E. coli bacteremia; treated with ERCP ___ with clean out of his
metal stents and 14d meropenem.
- ___: Admitted for fever, cholangitis treated with
ertapenem at discharge and then after that transitioned to
delafloxacin.
- ___: Admitted for bleeding after ERCP.
- ___: Admitted for cholanigitis with E. coli
bacteremia complicated by acute blood loss during CBD balloon
sweep with ERCP secondary to likely portobiliary fistula s/p
portal vein stenting with ___. Treated with 14-day course of
ertapenem.
- ___: Admitted for recurrent cholangitis with MDR
E. Coli bacteremia and discharged on ceftazadime/avibactam and
flagyl. Found to have portal venous thrombus and started on
apixaban.
- ___: Admitted for fever found to have liver
microabscesses s/p right-sided PTBD placement and discharged on
ceftaz-avi and flagyl with plan for 4-week course.
- ___: Admitted with fevers and found to have MDR E.
coli bacteremia in the setting of cholangitis from a clogged 
PTBD
s/p PTBD exchange and discharged on ertapenem/tigecycline.

PAST MEDICAL HISTORY:
- Cholangiocarcinoma, as above
- Biliary obstruction c/b cholangitis
- Rosacea
- BPH
- Migraines controlled on Atenolol
- Arthritis of the knees and shoulder on the right
- C.diff x3
- Diabetes Mellitus diagnosed ___
- Hypertension
- Mild OSA not on CPAP
- GERD

 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 97.8, BP 130/79, HR 66, RR 18, O2 sat 96% RA.
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, PTBD
in place.
EXT: Warm, well perfused, no lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, gross strength
and sensation intact.
SKIN: No significant rashes.

Discharge Exam:
Vitals: temp 98.3; BP 137/82; HR 83; RR 18; O2 97% RA
GEN: pleasant elderly anxious male, NAD
HEENT: MMM, no scleral icterus
CV: RRR no apprec m/r/g
RESP: CTAB no w/r
ABD: soft, NT, ND, NABS, biliary drain in place over RUQ 
(capped)
GU: no foley
EXTR: warm, no edema
Skin: no rashes appreciated
Psych: appropriate mood and affect, slightly anxious
NEURO: AOx3, no focal deficits
 
Pertinent Results:
Admission Labs:

___ 01:04PM BLOOD WBC-3.8* RBC-4.57* Hgb-11.4* Hct-38.0* 
MCV-83 MCH-24.9* MCHC-30.0* RDW-17.2* RDWSD-50.9* Plt Ct-88*
___ 01:04PM BLOOD Glucose-138* UreaN-19 Creat-0.8 Na-135 
K-8.1* Cl-106 HCO3-16* AnGap-13
___ 01:04PM BLOOD ALT-49* AST-93* AlkPhos-179* TotBili-0.3
___ 01:04PM BLOOD Lipase-70*
___ 01:04PM BLOOD proBNP-40
___ 01:04PM BLOOD cTropnT-<0.01
___ 01:04PM BLOOD Albumin-4.3 Calcium-9.0 Phos-4.1 Mg-2.1 
Iron-51
___ 01:04PM BLOOD calTIBC-410 Ferritn-13* TRF-315
___ 01:08PM BLOOD Lactate-2.1* K-4.2

MICROBIOLOGY:
___ Urine Culture - no growth
___ Blood Culture x 2 -  NGTD
___ Bile Fluid Culture - mixed bacterial flora

IMAGING:
CT Head w/o Contrast ___
1. No acute intracranial hemorrhage or other acute intracranial
abnormality.
2. Stable periventricular white matter hypodensities which are
nonspecific but likely sequela of chronic microangiopathic
disease.

CXR ___
Impression: Improving opacities at the lung bases, most
suggestive of resolving atelectasis, including increased lung
volumes.

RUQ Ultrasound ___
1. Nonvisualization of the left portal vein is likely due to
chronic occlusion with resultant left hepatic lobe atrophy as
better seen on the MRI of ___. Otherwise, the 
portal
vein is patent but demonstrates evidence of to and fro flow.
2. Biliary drain in situ. No apparent biliary ductal dilatation.
3. No focal liver lesion identified to suggest gross abscess
formation.
4. Splenomegaly. No ascites.

MRI L Spine ___.  Study is moderately degraded by motion. 
2. 17 mm enhancing lesion centered in the right anterolateral L3 
vertebral 
body with an extra osseous component is concerning for 
metastasis, with 
degenerative change less likely. 
3. Multilevel lumbar spondylosis as described.  Spinal canal 
narrowing is 
worst (mild-to-moderate) at L2-3 and L4-5.  Neural foraminal 
narrowing is 
worst (moderate) on the left at L3-4 and L5-S1. 
4. Additional findings as described. 
  
MRCP: 
IMPRESSION:  
The previously seen hepatic microabscesses have resolved.  There 
is no new or worsening intrahepatic infection. Interval 
resolution of the non-occlusive thrombus within the right 
posterior portal vein as well as the segment ___ouble biliary stents in situ with surrounding edema and 
enhancement in 
keeping with acute on chronic cholangitis changes.  Stable left 
hepatic lobe atrophy and PTBD.  
Splenomegaly, as before.  
Indeterminate L3 vertebral body lesion was better characterized 
on prior 
lumbar spine MRI and reference is made to that report. 

L3 lesion Vertebral body biopsy - gram stain was negative
Path was pending

Discharge Labs:

___ 06:40AM BLOOD WBC-3.0* RBC-4.39* Hgb-11.1* Hct-35.7* 
MCV-81* MCH-25.3* MCHC-31.1* RDW-16.7* RDWSD-49.1* Plt Ct-55*
___ 06:40AM BLOOD Glucose-154* UreaN-10 Creat-0.6 Na-141 
K-4.2 Cl-104 HCO3-25 AnGap-12
___ 06:40AM BLOOD ALT-48* AST-30 AlkPhos-218* TotBili-0.5
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of DMII, BPH, 
recurrent C. diff, and inoperable cholangiocarcinoma s/p 
gemcitabine/cisplatin and Cyberknife in ___ complicated by 
recurrent biliary obstruction/cholangitis with MDR E. coli,
biliary sepsis and multiple ERCPs/PTBDs who presents with 
fatigue.

#Cholangiocarcinoma.
#Likely metastatic L3 lesion.
Currently on surveillance with Dr. ___. Treated with gem/cis 
and RT, last received chemo ___. A lumbar MRI was obtained 
and was concerning for possible metastatic lesion. He had a 
biopsy on ___ which was pending on discharge. Gram stain was 
negative. Discussed with ID who felt given no change of symptoms 
with empiric course of abx less likely infectious etiology. He 
has follow up with Dr. ___ ___ for further 
evaluation/management of possible metastatic lesion. 

# Fatigue/Concern for possible recurrent cholangitis: Infectious 
work up was unremarkable except for mildly elevated LFTs (ALT 
and Alk phos). Pt denied any localizing symptoms and was 
ambulating frequently in the halls.  Blood cultures were NGTD. 
Urine culture ___ was negative. Bile culture ___ grew out 
mixed bacterial flora. TSH was 0.88 and cortisol was 13.1. ID 
consulted and pt was ruled out for tick borne infections with 
negative lyme and anaplasma serologies. Prior to negative 
studies he was briefly placed on empiric doxycycline which was 
discontinued with negative studies.  CMV VL was negative and 
MRCP showed some findings concerning for acute on chronic 
cholangitis.  Pt was treated empirically with Meropenem for 4 
days with no improvement of symptoms. Gram stain of lumbar 
lesion was negative. Discussed with ID who felt given lack of 
improvement of symptoms unlikely infectious and recommended 
discontinued abx course and resume prophylactic Bactrim  which 
he was discharged back on at discharge. 

#Pancytopenia: Possible leukopenia due to chronic Bactrim 
therapy. However appears to get thrombocytopenia and leukopenia 
with previous infections.  This was discussed with his primary 
oncologist, Dr. ___ evaluate blood smear and felt it was 
consistent with previous smears. B12 was normal at 821. Retic 
index-0.11 consistent with hypoproliferation. Continue to 
monitor as an outpatient.

# Malnutrition: Reports appetite and weight at baseline. 
Continued home dronabinol

# Iron-Deficiency Anemia: Hb actually higher than baseline 
although outpatient local labs concerning for iron deficiency 
(ferritin 7, iron 22, TIBC 390). Repeat iron studies- ferritin 
13, TIBC 410, iron 51. He recieved 2 doses of ferric gluconate 
while intpt.

# Portal Vein Thrombus- MRCP revealed resolution of previously 
seen right portal venous thrombus and apixaban was held for 
biopsy. Discussed with his oncologist, Dr. ___ 
recommended to continue anticoagulation. He was continued on his 
home apixaban on discharge. 

# BPH- Continue home finasteride and Tamsulosin

# Allergic Rhinitis- Continue home loratadine and fluticasone

# GERD- Continue home protonix 

#insomnia
#anxiety- He was trialed on trazadone during hospitalization 
with no relief. He received a dose of Ativan with improvement of 
symptoms which was continued for his anxiety and insomnia. He 
was advised this was suboptimal especially in his age group. 
Given his symptoms and improvement with Ativan he requested to 
continue this on discharge so he was given a script on 
discharge. 

Transition issues:
[ ] f/u lumbar biopsy
[ ] consider repeat CBC in a week to continue to monitor 
pancytopenia
[ ] consider further titrating/adjusting anxiety medication, 
would try to wean off ativan

Greater than 30 min spent on discharge planning

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Dronabinol 10 mg PO QHS 
3. Finasteride 5 mg PO QHS 
4. Fluticasone Propionate NASAL 2 SPRY NU BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Pantoprazole 40 mg PO QHS 
7. Psyllium Powder 1 PKT PO BID 
8. Tamsulosin 0.4 mg PO QHS 
9. Ursodiol 300 mg PO BID 
10. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN sore throat 
11. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
12. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
13. Sulfameth/Trimethoprim DS 1 TAB PO BID 
14. Align (Bifidobacterium infantis) 4 mg oral DAILY 
15. Osteo Bi-Flex (glucosamine-chondroitin) 250-200 mg oral QHS 
16. GuaiFENesin ER 1200 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth Q6 Disp #*30 
Tablet Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % apply to lower back once a day Disp #*30 Patch 
Refills:*0 
3.  LORazepam 0.25 mg PO TID:PRN acute anxiety 
RX *lorazepam [Ativan] 0.5 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
4.  Align (Bifidobacterium infantis) 4 mg oral DAILY  
5.  Apixaban 5 mg PO BID  
6.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN sore throat  
7.  Dronabinol 10 mg PO QHS  
8.  Finasteride 5 mg PO QHS  
9.  Fluticasone Propionate NASAL 2 SPRY NU BID  
10.  FoLIC Acid 1 mg PO DAILY  
11.  GuaiFENesin ER 1200 mg PO QHS  
12.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
13.  Osteo Bi-Flex (glucosamine-chondroitin) 250-200 mg oral QHS 
 
14.  Pantoprazole 40 mg PO QHS  
15.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
16.  Psyllium Powder 1 PKT PO BID  
17.  Sulfameth/Trimethoprim DS 1 TAB PO BID  
18.  Tamsulosin 0.4 mg PO QHS  
19.  Ursodiol 300 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metastatic cholangiocarcinoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with fatigue and underwent infectious work up 
that was ultimately negative. You were placed on empiric courses 
of antibiotics with no change to your symptoms and seen by ID 
and recommended discontinued of antibiotics other than your 
chronic Bactrim. Given low back you underwent an MRI of your 
spine that showed a possible recurrence of your malignancy. A 
biopsy was performed and was pending on discharge. You were 
started on new medications as noted below.

New Medications:
1) Ativan is a medication to help with anxiety. Please take as 
prescribed.

Best of luck with your recovery,
Your ___ care team
 
Followup Instructions:
___